US08664401B2
Step A) (+/−)-2-({trans-4-[(4-bromo-3-fluorophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran
The title compound (885 mg, 81.6%) was prepared from (+/−)-[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methanol (600 mg, 2.80 mmol) and 4-bromo-3-fluorophenol (588 mg, 3.08 mmol) by a procedure analogous to that described for (+/−)-2-({cis-4-[(4-bromophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran in Example 8, Step C. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.03-1.21 (m, 2H) 1.21-1.36 (m, 1H) 1.35-1.50 (m, 1H) 1.49-1.66 (m, 4H) 1.65-1.99 (m, 5H) 2.03-2.17 (m, 2H) 3.44-3.55 (m, 1H) 3.60 (tt, J=10.98, 4.24 Hz, 1H) 3.72 (d, J=6.24 Hz, 2H) 3.86-4.00 (m, 1H) 4.70-4.80 (m, 1H) 6.59 (ddd, J=8.88, 2.83, 0.98 Hz, 1H) 6.68 (dd, J=10.54, 2.73 Hz, 1H) 7.35-7.44 (m, 1H)

reactant | (+/−)-[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methanol | 2.80 mmol, 600 mg | O1C(CCCC1)O[C@@H]1CC[C@H](CC1)CO | C12H22O3
reactant | 4-bromo-3-fluorophenol | 3.08 mmol, 588 mg | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | (+/−)-2-({cis-4-[(4-bromophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran | BrC1=CC=C(OC[C@H]2CC[C@H](CC2)OC2OCCCC2)C=C1 | C18H25BrO3
product | (+/−)-2-({trans-4-[(4-bromo-3-fluorophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran | 885 mg, 81.6% | BrC1=C(C=C(OC[C@@H]2CC[C@H](CC2)OC2OCCCC2)C=C1)F | C18H24BrFO3
